US06706725B1
850 mg (1.3 mmol) of (4E,6E)-7-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-2-thienyl}-3-ethylnona-4,6-dien-3-ol are dissolved in 20 mL of anhydrous THF. 3.9 mL (3.9 mmol) of 1 M tetrabutylammonium fluoride solution are then added and the medium is stirred for 4 hours. After the usual treatment, the residue is purified by chromatography on silica gel (eluent: 2 heptane/8 ethyl acetate). (4E,6E)-7-[5-(3,4-bis-Hydroxymethyl-phenoxymethyl)-2-thienyl]-3-ethylnona-4,6-dien-3-ol is obtained in the form of a yellow oil (m=340 mg; Y=63%).

reactant | (4E,6E)-7-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-2-thienyl}-3-ethylnona-4,6-dien-3-ol | 1.3 mmol, 850 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC=C(S2)/C(=C/C=C/C(CC)(O)CC)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C36H60O4SSi2
reactant | tetrabutylammonium fluoride | 3.9 mmol, 1 M, 3.9 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (4E,6E)-7-[5-(3,4-bis-Hydroxymethyl-phenoxymethyl)-2-thienyl]-3-ethylnona-4,6-dien-3-ol | OCC=1C=C(OCC2=CC=C(S2)/C(=C/C=C/C(CC)(O)CC)/CC)C=CC1CO | C24H32O4S
